US04426382
4-Amino-6,7-dimethoxy-2-[4-(1-phenylcyclohexylcarbonyl)-1-piperazinyl]quinazoline hydrochloride hydrate (Compound No. 63 hydrochloride hydrate)
To 25 ml of isopentanol were added 1.0 g of 4-amino-2-chloro-6,7-dimethoxyquinazoline and 1.37 g of 1-(1-phenylcyclohexylcarbonyl)piperazine, and the resulting mixture was heated under reflux for 4 hours. The crystals thereby produced were collected by filtration and neutralized by the addition of a 10% w/w aqueous solution of sodium hydroxide. The resulting mixture was extracted with chloroform and the extract was subjected to silica gel chromatography and eluted with chloroform. A 10% w/w solution of hydrogen chloride in ethanol was added to the eluate and the crystals thus produced were collected by filtration, to give 0.93 g of the desired Compound No. 63 hydrochloride hydrate in the form of pale yellow powdery crystals melting at 278°-279° C. (with decomposition).

reactant | 4-amino-2-chloro-6,7-dimethoxyquinazoline | 1.0 g | NC1=NC(=NC2=CC(=C(C=C12)OC)OC)Cl | C10H10ClN3O2
reactant | 1-(1-phenylcyclohexylcarbonyl)piperazine | 1.37 g | C1(=CC=CC=C1)C1(CCCCC1)C(=O)N1CCNCC1 | C17H24N2O
solvent | isopentanol | 25 ml | C(CC(C)C)O | C5H12O
product | 4-Amino-6,7-dimethoxy-2-[4-(1-phenylcyclohexylcarbonyl)-1-piperazinyl]quinazoline hydrochloride hydrate | 0.93 g | O.Cl.NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCN(CC1)C(=O)C1(CCCCC1)C1=CC=CC=C1 | InChI=1S/C27H33N5O3.ClH.H2O/c1-34-22-17-20-21(18-23(22)35-2)29-26(30-24(20)28)32-15-13-31(14-16-32)25(33)27(11-7-4-8-12-27)19-9-5-3-6-10-19;;/h3,5-6,9-10,17-18H,4,7-8,11-16H2,1-2H3,(H2,28,29,30);1H;1H2
